US05631401
N-(2-Ethylthioethyl)-N-(4-phenoxybenzyl)amine
Following the procedure described in Example 68A, 4-phenoxybenzaldehyde (1.98 g, 10 mmol) and 2-(ethylthio)ethylamine hydrogen chloride (1.42 g, 10 mmol) were combined to give the title compound (2.72 g, 95%). 1H NMR (300 MHz, CDCl3), δ 7.33 (m, 4 H), 7.09 (t, 1 H), 6.98 (m, 4 H), 3.78 (s, 2 H), 2.84 (t, 2 H), 2.71 (t, 2 H), 2.54 (q, 2 H), 1.26 (t, 3 H).

reactant | 4-phenoxybenzaldehyde | 10 mmol, 1.98 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | 2-(ethylthio)ethylamine hydrogen chloride | 10 mmol, 1.42 g | Cl.C(C)SCCN
product | N-(2-Ethylthioethyl)-N-(4-phenoxybenzyl)amine | 2.72 g, 95% | C(C)SCCNCC1=CC=C(C=C1)OC1=CC=CC=C1 | C17H21NOS
